US06376672B1
In analogy to the procedure described in example 1 (h) the (R)-3-[(3S,4R,5R)-5-(4-methoxy-naphthalen-2-ylmethoxy)-4-[4-[3-(2-nitro-phenoxy)-propoxy]-phenyl]-piperidin-3-yloxy]-propane-1,2-diol was treated with di-tert.-butyldicarbonate to yield the (3S,4R,5R)-3-[(2R)-2,3-dihydroxy-propoxy]-5-(4-methoxy-naphthalen-2-ylmethoxy)4-[4-[3-(2-nitro-phenoxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester as light yellow foam; MS: 733 (M+H)+.

reactant | (R)-3-[(3S,4R,5R)-5-(4-methoxy-naphthalen-2-ylmethoxy)-4-[4-[3-(2-nitro-phenoxy)-propoxy]-phenyl]-piperidin-3-yloxy]-propane-1,2-diol | COC1=CC(=CC2=CC=CC=C12)CO[C@@H]1[C@H]([C@@H](CNC1)OC[C@@H](CO)O)C1=CC=C(C=C1)OCCCOC1=C(C=CC=C1)[N+](=O)[O-] | C35H40N2O9
reactant | di-tert.-butyldicarbonate | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | (3S,4R,5R)-3-[(2R)-2,3-dihydroxy-propoxy]-5-(4-methoxy-naphthalen-2-ylmethoxy)4-[4-[3-(2-nitro-phenoxy)-propoxy]-phenyl]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]([C@@H]([C@H](C1)OCC1=CC2=CC=CC=C2C(=C1)OC)C1=CC=C(C=C1)OCCCOC1=C(C=CC=C1)[N+](=O)[O-])OC[C@@H](CO)O | C40H48N2O11
